US07449457B2
Preparation of 5-Chloro-2-[6-(morpholin-4-yl)pyridin-3-yl-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide
A solution of 5-chloro-2-(6-chloropyridin-3-ylcarbonyl-amino)-N-(5-chloropyridin-2-yl)benzamide (0.2 g) and morpholine (2 mL) in DMSO (2 mL) was heated at 80° C. in a sealed tube overnight. The mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), washed with water, sodium bicarbonate, and dried over sodium sulfate. After evaporation of the solvent, the product was purified by RPHPLC [ethyl acetate/hexane (3:7)]. Yield=0.054 g.

reactant | 5-chloro-2-(6-chloropyridin-3-ylcarbonyl-amino)-N-(5-chloropyridin-2-yl)benzamide | 0.2 g | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C=1C=NC(=CC1)Cl | C18H11Cl3N4O2
reactant | morpholine | 2 mL | N1CCOCC1 | C4H9NO
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-[6-(morpholin-4-yl)pyridin-3-yl-carbonylamino]-N-(5-chloropyridin-2-yl)benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C=1C=NC(=CC1)N1CCOCC1 | C22H19Cl2N5O3
